US07883713B2
[4-(2-pyridyl)phenyl]acetic acid
700 mg (3.11 mol) of methyl [4-(2-pyridyl)phenyl]acetate are introduced into 5 ml of tetrahydrofuran and, at room temperature, 6.2 ml of a 1M potassium hydroxide solution in water are added. The mixture is stirred at room temperature for 18 h and then the solvent is substantially removed in vacuo, the residue is taken up in 10 ml of water and the pH was adjusted to about 5 with 2N hydrochloric acid. Extraction of the aqueous phase twice with 10 ml of dichloromethane each time affords, after drying the combined organic phases over magnesiumsulfate and removing the solvent in vacuo, the compound of Example VIII in the form of a solid.

reactant | methyl [4-(2-pyridyl)phenyl]acetate | 3.11 mol, 700 mg | N1=C(C=CC=C1)C1=CC=C(C=C1)CC(=O)OC | C14H13NO2
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
reactant | potassium hydroxide | 1M | [OH-].[K+]
solvent | water | O | H2O
product | [4-(2-pyridyl)phenyl]acetic acid | N1=C(C=CC=C1)C1=CC=C(C=C1)CC(=O)O | C13H11NO2
